US07935688B2
(2) Synthesis of [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid Methyl Ester
Trifluoroacetic acid (0.20 mL) was added to a solution of [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester (Example 80-(1); 36.0 mg, 0.0566 mmol) in dichloromethane (1.0 mL) at 0° C., and the mixture was stirred at room temperature for three hours. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (34.3 mg, 99%).

reactant | Trifluoroacetic acid | 0.20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | 0.0566 mmol, 36.0 mg | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)CC)C)=O | C34H35F6NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid Methyl Ester | 34.3 mg, 99% | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)O)C)CC)C)=O | C32H31F6NO3
